US07714126B2
With a procedure similar to example 50 above, 4-(2-methylsulfanyl-ethyl)-2-phenyl-oxazole-5-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide was prepared from 4-(2-methylsulfanyl-ethyl)-2-phenyl-oxazole-5-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester and 6-morpholin-4-yl-pyridin-3-ylamine. LCMS calcd for C22H24N4O3S (m/e) 424, obsd 425 (M+H).

reactant | 4-(2-methylsulfanyl-ethyl)-2-phenyl-oxazole-5-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(=O)C1=C(N=C(O1)C1=CC=CC=C1)CCSC | C17H16N2O5S
reactant | 6-morpholin-4-yl-pyridin-3-ylamine | N1(CCOCC1)C1=CC=C(C=N1)N | C9H13N3O
product | 4-(2-methylsulfanyl-ethyl)-2-phenyl-oxazole-5-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide | N1(CCOCC1)C1=CC=C(C=N1)NC(=O)C1=C(N=C(O1)C1=CC=CC=C1)CCSC | C22H24N4O3S
